US05013863
To 42.45 g of phenylphosphonous acid-ethylester and 16.45 ml of acrylonitrile are added with stirring 5 ml of sodium ethylate (1 molar). The reaction is exothermic. After 1 hour stirring at 20° the mixture is fractionally distilled. There is obtained ethyl 2-cyanoethyl(phenyl)phosphinate as a colorless oil, b.p. 134-136°/7 Pa.

reactant | phenylphosphonous acid-ethylester | 42.45 g | C(C)OP(O)C1=CC=CC=C1 | C8H11O2P
reactant | acrylonitrile | 16.45 ml | C(C=C)#N | C3H3N
reactant | sodium ethylate | 1 molar, 5 ml | CC[O-].[Na+]
product | ethyl 2-cyanoethyl(phenyl)phosphinate | C(#N)CCP(OCC)(=O)C1=CC=CC=C1 | C11H14NO2P
